US07670591B2
a) tert-Butyl [5-(6-methoxy-1,3-benzoxazol-2-yl)pyrimidin-2-yl]carbamate
The title intermediate was synthesized from 5-(6-methoxy-1,3-benzoxazol-2-yl)pyrimidin-2-amine according to the procedure described for tert-butyl [5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-yl]carbamate to give 115 mg. 1H NMR 400 MHz, Chloroform-d) δ ppm 9.33 (s, 2H) 8.17 (s, 1H) 7.65 (d, 1H) 7.14 (d, 1H) 7.00 (dd, 1 H) 3.90 (s, 3H) 1.60 (s, 9H). MS m/z 343 (M+H).

reactant | 5-(6-methoxy-1,3-benzoxazol-2-yl)pyrimidin-2-amine | COC1=CC2=C(N=C(O2)C=2C=NC(=NC2)N)C=C1 | C12H10N4O2
reactant | tert-butyl [5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-yl]carbamate | COC1=CC2=C(N=C(O2)C=2C=CC(=NC2)NC(OC(C)(C)C)=O)C=C1 | C18H19N3O4
product | tert-Butyl [5-(6-methoxy-1,3-benzoxazol-2-yl)pyrimidin-2-yl]carbamate | COC1=CC2=C(N=C(O2)C=2C=NC(=NC2)NC(OC(C)(C)C)=O)C=C1 | C17H18N4O4
